US05840911
1-[4-(Amidino)-2,3-dihydro-1H-inden- 1-ylideneamino]-2-amino-4-(4-chlorophenyl)-imidazole dihydrochloride
Analogously to Example 2, 0.2 g of Raney nickel is added to a solution of 1.0 g (2.024 mmol) of 1-[4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-chlorophenyl)-irnidazole dihydrochloride in 35 ml of methanol and 20 ml of water, and hydrogenation is carried out at room temperature and under normal pressure until the absorption of hydrogen has ceased. The reaction mixture is then diluted with 50 ml of methanol and filtered. The filtrate is adjusted to pH 3 with a small amount of 3N methanolic hydrochloric acid and is concentrated to a volume of approximately 30 ml. After cooling in an ice-bath, the product that has crystallized out is filtered off, washed with a small amount of methanol and diethyl ether and dried under a high vacuum at 120° C. The title compound is obtained in the form of the monohydrate, m.p. 245°-250° C. (decomp.), 1H-NMR (DMSO/D2O): δ=8.33 (d, 1H); 8.12 (s, 1H); 7.79-7.87 (m, 3H); 7.67 (t, 1H); 7.57 (d, 2H); 3.38 (s, 4H).

reactant | 1-[4-(N-hydroxyamidino)-2,3-dihydro-1H-inden-1-ylideneamino]-2-amino-4-(4-chlorophenyl)-irnidazole dihydrochloride | 2.024 mmol, 1.0 g | Cl.Cl.ONC(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)Cl)N
catalyst | Raney nickel | 0.2 g | [Ni] | Ni
solvent | methanol | 35 ml | CO | CH4O
solvent | water | 20 ml | O | H2O
product | 1-[4-(Amidino)-2,3-dihydro-1H-inden- 1-ylideneamino]-2-amino-4-(4-chlorophenyl)-imidazole dihydrochloride | Cl.Cl.C(N)(=N)C1=C2CCC(C2=CC=C1)=NN1C(=NC(=C1)C1=CC=C(C=C1)Cl)N | InChI=1S/C19H17ClN6.2ClH/c20-12-6-4-11(5-7-12)17-10-26(19(23)24-17)25-16-9-8-13-14(16)2-1-3-15(13)18(21)22;;/h1-7,10H,8-9H2,(H3,21,22)(H2,23,24);2*1H
